US08497265B2
Preparation P7.1: (1-(5-Bromo-4-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrimidin-2-yl)Piperidin-4-yl)Methanol
To a mixture of 2-(3-((5-bromo-2-chloropyrimidin-4-yl)oxy)azetidin-1-yl)quinoline (see PREPARATION P2.11; 0.1 g, 0.25 mmol) and piperidin-4-yl-methanol (0.028 g, 0.25 mmol) was added DMSO (2 mL) and triethylamine (0.05 g, 0.50 mmol). The solution was heated to 150° C. under microwave for 3 hours. The mixture was then extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 60% EtOAc in hexanes) to give the title product (0.02 g, 0.04 mmol, 17% yield) as white solid. ESI-MS (M+1): 471 calc. for C22H24BrN5O2 470.

reactant | 2-(3-((5-bromo-2-chloropyrimidin-4-yl)oxy)azetidin-1-yl)quinoline | 0.25 mmol, 0.1 g | BrC=1C(=NC(=NC1)Cl)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H12BrClN4O
reactant | piperidin-4-yl-methanol | 0.25 mmol, 0.028 g | N1CCC(CC1)CO | C6H13NO
reactant | triethylamine | 0.50 mmol, 0.05 g | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (1-(5-Bromo-4-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrimidin-2-yl)Piperidin-4-yl)Methanol | 0.04 mmol, 0.02 g, 17% yield | BrC=1C(=NC(=NC1)N1CCC(CC1)CO)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C22H24BrN5O2
